US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]-1,3-benzenedicarboxamide
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-fluoro-3′-(hydroxymethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide (2.0 g, 3.0 mmol) in THF (50 mL) was added MnO2 (5.2 g, 60.0 mmol). The resulting solution was stirred at room temperature overnight. Then the solution was filtered though Celite. The solvent was removed and 2.0 g of the title compound were collected. Finally, LC-MS was taken to confirm structures. LC-MS m/z 664 (M+H)+, 1.86 min (ret time).

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-fluoro-3′-(hydroxymethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | 3.0 mmol, 2.0 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CO)CC | C38H41FN6O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 60.0 mmol, 5.2 g | O=[Mn]=O
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]-1,3-benzenedicarboxamide | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)C=O)CC | C38H39FN6O4
